US04387238
Ethyl N-phenyl-2,3-epoxysuccinamate (Compound No. 1) (0.9 g) was dissolved in ethyl alcohol (30 ml) and an ethyl alcohol solution (5 ml) containing KOH (0.27 g) was added to the solution under ice-cooling, followed by stirring for an hour. The precipitate produced was collected on a filter and recrystallized from a mixture of ethyl alcohol-water to give 0.7 g of potassium N-phenyl-2,3-epoxysuccinamate (Compound No. 95) as colorless powder melting over 300° C. (decomposition).

reactant | Ethyl N-phenyl-2,3-epoxysuccinamate | 0.9 g | C1(=CC=CC=C1)NC(C1C(C(=O)OCC)O1)=O | C12H13NO4
reactant | KOH | 0.27 g | [OH-].[K+]
solvent | ethyl alcohol | 30 ml | C(C)O | C2H6O
solvent | ethyl alcohol | 5 ml | C(C)O | C2H6O
product | potassium N-phenyl-2,3-epoxysuccinamate | 0.7 g | C1(=CC=CC=C1)NC(C1C(C(=O)[O-])O1)=O.[K+] | InChI=1S/C10H9NO4.K/c12-9(7-8(15-7)10(13)14)11-6-4-2-1-3-5-6;/h1-5,7-8H,(H,11,12)(H,13,14);/q;+1/p-1
